US08431695B2
Step 1: Preparation of 2-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carbonyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
N,N-Diisopropylethylamine (35.0 μL, 0.200 mmol, 2.0 eq.) was added to N-(tert-butoxycarbonyl)-L-proline (23.7 mg, 0.110 mmol, 1.1 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (19.2 mg, 0.100 mmol, 1.0 eq), 1-hydroxybenzotriazole (13.5 mg, 0.100 mmol, 1.0 eq) and 1 mL of anhydrous DMF. The reaction was cooled to 0° C. and shaken for 30 minutes. Then to this mixture was added 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (42.3 mg, 0.1 mmol, 1.0 eq.) in 1 mL of anhydrous DMF. The reaction was shaken for 5 minutes at 0° C. The reaction was slowly warmed to rt and shaken over night. The product was purified by acidic HPLC on a Sunfire column (5% to 90%, 12 min).

reactant | N,N-Diisopropylethylamine | 0.200 mmol, 35.0 μL, 2.0 eq. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(tert-butoxycarbonyl)-L-proline | 0.110 mmol, 23.7 mg, 1.1 eq | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.100 mmol, 19.2 mg, 1.0 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.100 mmol, 13.5 mg, 1.0 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.1 mmol, 42.3 mg, 1.0 eq. | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carbonyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C35H40N8O3
